US06150373
A mixture of 240 mg (0.4 mmol) of 7-benzylsulfonyl-3-(2-bromophenyl)-1-cyclohexylmethyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 0.39 ml (4.3 mmol) of aniline was heated at 150° C. for 2 hours. The reaction mixture was cooled to room temperature then partitioned between 2M hydrochloric acid (20 ml) and dichloromethane (20 ml). The organic layer was separated, washed with saturated aqueous sodium bicarbonate (20 ml), dried over magnesium sulfate, filtered and evaporated. The crude material was purified by flash chromatography on silica gel, eluting with 1:2 ethyl acetate/hexane. Product containing fractions were combined and evaporated to give 80 mg (42%) of 7-anilino-3-(2-bromophenyl)-1-cyclohexylmethyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one as an off-white solid of melting point 200-202° C. [Mass spectrum (ESI) MH+ =492].

reactant | 7-benzylsulfonyl-3-(2-bromophenyl)-1-cyclohexylmethyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.4 mmol, 240 mg | C(C1=CC=CC=C1)S(=O)(=O)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)CC2CCCCC2 | C26H27BrN4O3S
reactant | aniline | 4.3 mmol, 0.39 ml | NC1=CC=CC=C1 | C6H7N
product | 7-anilino-3-(2-bromophenyl)-1-cyclohexylmethyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 80 mg, 42% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)CC2CCCCC2 | C25H26BrN5O
